US06087380
b) 2-Chloromethyl-1-methyl-benzimidazol-5-yl-carboxylic acid-N-(n-propyl)-N-(2-ethoxycarbonylethyl)-amide
1.6 g (4.3 mMol) of 4-methylamino-3-chloracetamido-benzoic acid-N-(n-propyl)-N-(2-ethoxycarbonylethyl)-amide were heated to 100° C. in 25 ml of acetic acid for 30 minutes. Then the solvent was distilled off, the crude product was taken up in 40 ml methylene chloride/ethanol (9:1) and washed with 20 ml saturated sodium hydrogen carbonate solution. The organic phase was dried with sodium sulphate and evaporated down. Yield: 1.5 g (100% of theory) of brown oil, Rf value: 0.63 (silica gel; ethyl acetate/ethanol/ammonia =90:10:1)

reactant | 4-methylamino-3-chloracetamido-benzoic acid-N-(n-propyl)-N-(2-ethoxycarbonylethyl)-amide | 4.3 mMol, 1.6 g | C(CC)N(C(C1=CC(=C(C=C1)NC)NC(CCl)=O)=O)CCC(=O)OCC | C18H26ClN3O4
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 2-Chloromethyl-1-methyl-benzimidazol-5-yl-carboxylic acid-N-(n-propyl)-N-(2-ethoxycarbonylethyl)-amide | C(CC)N(C(=O)C1=CC2=C(N(C(=N2)CCl)C)C=C1)CCC(=O)OCC | C18H24ClN3O3
